US04203987
2,3,4,4a-Tetrahydro-6-Methyl-3-[(4-Pyridinyl)Methyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One
A solution of 6 g. (0.03 mole) of 2,3,4,4a-tetrahydro-6-methyl-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one, 5 g. (0.03 mole) of 4-picolyl chloride hydrochloride, 10 g. of potassium carbonate and 0.5 ml. of triethylamine was stirred and refluxed in 200 ml. of acetone overnight, cooled and filtered. The solvent was removed and the residue was dissolved in methylene chloride. This solution was washed with water and brine, dried over magnesium sulfate and filtered. The solvent was removed and the residue was chromatographed on 460 g. of Silicar, CC-7. Fractions eluted with 10% methanol in ethyl acetate afforded the product as a free base. This free base was dissolved in ethanol and treated with dry hydrogen chloride saturated ether. The product hydrochloride was filtered and recrystallized from methanol to yield 5.2 g. of the title compound as the dihydrochloride salt, m.p. 252°-254.5° C.

reactant | 2,3,4,4a-tetrahydro-6-methyl-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one | 0.03 mole | CN1C(C2N(C3=CC=CC=C13)CCNC2)=O | C12H15N3O
reactant | 4-picolyl chloride hydrochloride | 0.03 mole | Cl.N1=CC=C(C=C1)CCl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,3,4,4a-Tetrahydro-6-Methyl-3-[(4-Pyridinyl)Methyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One | CN1C(C2N(C3=CC=CC=C13)CCN(C2)CC2=CC=NC=C2)=O | C18H20N4O
